US05432159
Synthesis of N-[(1,2-Dihydro-2-thioxo-4-pyridinyl)carbonyl]-L-alanyl-L-proline ethyl ester (Compound No. 5)
To a solution of 4.5 g (0.013 mol) of N-[(2-Chloro-4-pyridinyl)carbonyl]-L-alanyl-L-proline ethyl ester (Compound No. 3) in 45 ml of a 10:1 mixture of 1,2-propyleneglycol:water, 15.2 g of sodium thiosulfate are added, and the mixture is heated under reflux for 15 hours. The resulting reaction mixture is diluted with 100 ml of water and extracted with four 100 ml portions of methylene chloride. The organic layer is washed three times with 100 ml of water, dried over anhydrous magnesium sulfate, and the solvent is distilled off at reduced pressure. The residue obtained is purified by crystallisation from a mixture of acetone:petroleum ether, to give the title product as a yellow solid (yield: 85%).

reactant | N-[(2-Chloro-4-pyridinyl)carbonyl]-L-alanyl-L-proline ethyl ester | 0.013 mol, 4.5 g | C(C)OC([C@H]1N(CCC1)C([C@@H](NC(=O)C1=CC(=NC=C1)Cl)C)=O)=O | C16H20ClN3O4
reactant | 1,2-propyleneglycol | C(C(C)O)O | C3H8O2
reactant | sodium thiosulfate | 15.2 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 100 ml | O | H2O
product | N-[(1,2-Dihydro-2-thioxo-4-pyridinyl)carbonyl]-L-alanyl-L-proline ethyl ester | yield: 85% | C(C)OC([C@H]1N(CCC1)C([C@@H](NC(=O)C1=CC(NC=C1)=S)C)=O)=O | C16H21N3O4S
